US06399613B1
A solution of 500 mg of 2,5-dimethoxycarbonylpyrazine and 0.720 cm3 of 2-(2-aminoethoxy)ethanol in 3 cm3 of ethanol is heated at a temperature in the region of the reflux temperature for 4 hours. The reaction mixture is cooled to a temperature of 20° C. and the white solid formed is then filtered off and washed with twice 5 cm3 of ethanol. 150 mg of N,N′-bis(2-hydroxyethyloxyethyl)-pyrazine-2,5-dicarboxamide are thus obtained in the form of a white solid melting at 125° C. [1H NMR spectrum (300 MHz, (CD3)2SO-d6, δ at ppm): from 3.35 to 3.65 (mt, 16H: 2×NCH2CH2OCH2CH2O); 4.62 (t, J=5.5 Hz, 2H: 2×OH); 9.00 (t, J=6 Hz, 2H: 2×NHCO); 9.20 (s, 2H: ═CH at 3 and ═CH at 6)].

reactant | 2,5-dimethoxycarbonylpyrazine | 500 mg | COC(=O)C1=NC=C(N=C1)C(=O)OC | C8H8N2O4
reactant | 2-(2-aminoethoxy)ethanol | 0.720 cm3 | NCCOCCO | C4H11NO2
solvent | ethanol | 3 cm3 | C(C)O | C2H6O
product | N,N′-bis(2-hydroxyethyloxyethyl)-pyrazine-2,5-dicarboxamide | 150 mg | OCCOCCNC(=O)C1=NC=C(N=C1)C(=O)NCCOCCO | C14H22N4O6
